Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Keflex / Keppra / Ultram / tizanidine / tamsulosin 
/ Trileptal / azithromycin
 
Attending: ___.
 
Chief Complaint:
Septic shock secondary to cystitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man w/ depression, chronic back 
pain, BPH, with indwelling cath, removed by Urology ___ 
subsequently with suprapubic discomfort/fullness and hematuria 
w/straight cath presented to ___ found to be hypotensive to 
___ systolic found ___ E coli urosepsis w/course further 
complicated by GCT seizure ___ AM. He had been constipated 2 
weeks ago and was having issue urinating and so had a foley 
placed in ___. He then had his foley removed at a 
Urology appointment on ___ and they gave him straight 
catheters, and told him to go back to the ER if he needed to 
straight cath himself. This is why he presented to ___ ER 
on ___. They placed a foley there, and it was exchanged after 
they realized he was septic and started antibiotics. 

His SBP at ___ was in the ___ and refractory to 2.5L IVF. 
He was started on Levophed and a R subclavian CVL was placed, 
with a WBC of 40, and vancomycin/cefepime were started. He had 
significant pyuria (UA brown, bloody, SG 1.015 protein 100 large 
leuks) and his urine was felt to be the source of infection. He 
denied any other symptoms that would suggest alternative sources 
of infection. 

He was transferred to ___ to the ICU with WBC 40, AST 226, ALT 
292. A CT A/P NON-CON was done which revealed enlarged calcified 
prostate, calcified chronic pancreatitis, no obstruction, no LN, 
no hydronephorsis, bladder collapsed with Foley in place, and no 
nephrolithiasis. Patient had ___ second gct seizure w/fixed 
left lateral gaze morning of ___. Pt was post ictal briefly. 
Stated did not get meds all ___ until at ___ ED, lack of 
sleep, severely ill. Neuro was consulted, who did not want to 
change dosages or do an eeg as they felt he missed medications 
and had critical illness. He is on an Ativan bridge to home 
Lamictal/Topomax while he is infected. Needed Levophed, has been 
off and is now on home midodrine. Now being treated with 
vancomycin/aztreonam. On Midodrine 2.5 TID at home (same as 
here). 

Now stable off pressors, Mr. ___ was deemed stable for the 
floor. 

REVIEW OF SYSTEMS:  
(+) As noted above in HPI
(-) Fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 

 
Past Medical History:
Chest pain 
seizures 
anxiety 
BPH 
depression 
colonoscopy ___
chronic back pain 

Epilepsy: he was admitted to our hospital in ___ after several 
new onset seizure episodes that were followed by intubated and 
ICU monitoring. He underwent MRI and EEG which were unrevealing. 

He was discharged but did not follow up with ___ neurology. He 

was not discharged on any AEDs at that time. Based on his 
admission medication list, he is taking lyrica and topamax but 
at 
small doses for pain.  
 
 
Chronic Back pain- Patient has been mostly followed by a 
___ physician for this problem. ___ years ago  
he fell while at work on the ___ and fell down 14 feet 
injuring 
his back. His family wasn't sure the total of extent of his 
injury but think he had L4/L5 vertebral disc protrusion and 
stenosis of the canal. His images are at ___.  
He has a history of taking many pain medications and taking them 

NOT as precribed. For pain, he is currently on lyrica 50mg QID, 
topamax 25 bID, flexeril 10mg, ibuprofen and percocet QID  
 
 
Heel Fracture- sustained during above mentioned fall 
 
?Syncope- He has two known syncopal events apart from the 
seizures described above. One was ___ years ago where he 
reported 
feeling lightheaded and fell forward and hit his head suffereing 

a laceration of his forehead. The second was ___ year ago where he 

fainted while in the bathroom.  
 
 
Hemorrhoids- He has been followed by a surgeon who has 
recommended surgical intervention in the past.  

 
Social History:
___
Family History:
Family History:
FH: He was one of 6 brother and several of them have prostate
cancer.  Both of his parents lived to their ___.  His 
mother had a stroke in her ___.  There is no family history of
seizure.
 
Physical Exam:
==================
EXAM ON ADMISSION 
==================
VITALS: Temp 97.6F HR 60-70's SBP 94/57 14 98% RA   
GENERAL: A&O3X 
HEENT: Sclera anicteric, Mucous membranes dry, oropharynx clear  

NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: deaf, ___ ___ strength bilaterally 

==================
EXAM ON DISCHARGE
==================
VS: T 98 BP 98/51 HR 59 RR 16 O2 95% RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
==================
LABS ON ADMISSION 
==================
___ 07:41PM BLOOD WBC-46.3*# RBC-3.78* Hgb-11.9* Hct-35.0* 
MCV-93 MCH-31.5 MCHC-34.0 RDW-13.5 RDWSD-45.9 Plt ___
___ 07:41PM BLOOD Neuts-82* Bands-12* Lymphs-4* Monos-1* 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-43.52* 
AbsLymp-1.85 AbsMono-0.46 AbsEos-0.00* AbsBaso-0.00*
___ 07:41PM BLOOD Glucose-90 UreaN-44* Creat-1.4* Na-135 
K-4.3 Cl-104 HCO3-16* AnGap-19
___ 07:41PM BLOOD ALT-258* AST-184* LD(LDH)-255* CK(CPK)-62 
AlkPhos-118 TotBili-0.5
___ 06:20AM BLOOD Calcium-8.3* Phos-2.3* Mg-1.9
___ 09:07AM BLOOD Type-MIX pO2-37* pCO2-37 pH-7.32* 
calTCO2-20* Base XS--6

___ 08:30PM URINE Color-Amber Appear-Cloudy Sp ___
___ 08:30PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 08:30PM URINE RBC->182* WBC-150* Bacteri-MOD Yeast-NONE 
Epi-1 TransE-1
___ 08:30PM URINE Hours-RANDOM Creat-137 Na-<20 TotProt-39 
Prot/Cr-0.3*

===============
PERTINENT LABS 
================
___ 08:20PM BLOOD Lactate-2.3*
___ 09:07AM BLOOD Lactate-2.4*

___ 07:41PM BLOOD ___

___ 07:41PM BLOOD TSH-1.1

___ 07:41PM BLOOD Free T4-1.0
___ 06:20AM BLOOD Cortsol-33.7*

================
MICRO
================
___ 7:41 pm BLOOD CULTURE - no growth to date
___ 8:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

Urine cultures from ___ earlier on ___ were E.Coli 
positive, pansensitive. 

=============
IMAGING 
=============

___BDOMEN:  
1. Enlarged calcified prostate, calcified chronic pancreatitis, 
no obstruction, no LN, no hydronephorsis, bladder collapsed with 
Foley in place, and no nephrolithiasis.

___ Imaging LIVER OR GALLBLADDER US:   
1. Small volume ascites. 
2. Gallbladder-wall thickening and edema, as well as small 
amount of 
pericholecystic fluid are likely related to third spacing in the 
setting of ascites. 
3. No cholelithiasis. 
4. Unremarkable sonographic appearance of the kidneys. 

___ Neurophysiology EEG 
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of diffuse background slowing indicative of a 
moderate encephalopathy which is nonspecific as to etiology. 
More focal slowing over the right hemisphere is seen and is 
indicative of focal cerebral dysfunction in this region. There 
are no electrographic seizures or epileptiform discharges 
present. 

==================
LABS ON DISCHARGE
==================
___ 06:20AM BLOOD WBC-11.4* RBC-3.89* Hgb-12.3* Hct-35.0* 
MCV-90 MCH-31.6 MCHC-35.1 RDW-13.2 RDWSD-43.6 Plt ___
___ 06:20AM BLOOD Neuts-60.0 ___ Monos-7.6 Eos-4.0 
Baso-0.4 Im ___ AbsNeut-6.84* AbsLymp-3.01 AbsMono-0.87* 
AbsEos-0.45 AbsBaso-0.04
___ 06:20AM BLOOD Glucose-88 UreaN-15 Creat-0.9 Na-135 
K-3.9 Cl-105 HCO3-18* AnGap-16
___ 06:20AM BLOOD ALT-84* AST-30 AlkPhos-195* TotBili-0.4
___ 06:20AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.___ is a ___ year old man w/ depression, chronic back 
pain, BPH, with indwelling cath, removed by Urology ___ 
subsequently with suprapubic discomfort/fullness and hematuria 
w/straight cath presented to ___ found to be hypotensive to 
___ systolic found ___ E coli urosepsis w/course further 
complicated by GCT seizure ___ AM. He was put on an Ativan 
bridge and seizures stopped. He did not have bacteremia but did 
have E.coli in his urine. He was initially on aztreonam (has PCN 
allergy) until ___ when sensitivities returned as pansensitive 
E.Coli and he was switched to PO Bactrim. He had no further 
seizures. 

His catheterization course was as follows: 
- 2 weeks PTA presented to ___ with constipation and 
urinary retention. Foley placed then
- 1 week later he saw urology and failed voiding trial, Foley 
kept in
- 1 week later (1 day PTA) he was able to urinate at his urology 
appointment and a cystoscopy was done. He was given straight 
caths and told to come to the ED if he needed to straight cath 
overnight. 
- ___ he went ___ ED because he needed to 
straight cath. They placed a foley. After he was started on 
antibiotics, his foley was changed.

The current foley catheter he has in was placed on ___, after 
antibiotics were started. 

# Shock: 
# Urosepsis: 
Patient initially presented to ___ in septic shock with UA 
positive for blood, large leuks and moderate bacteria, 
hypotensive to 60/40's. At ___ CVL was placed, he was 
started on cefepime/vancomycin (___) for urosepsis and 
started on levophed for pressor support to maintain MAPs greater 
than 65. He was then transferred to ___ ED where WBC 46K with 
12% bands with BUN 44 and Cr 1.4 with good urine output in the 
foley. He was then transferred to the ICU, maintained on 
levophed, bolused 3L IVF and continued on cefepime/vancomycin; 
pressors were weaned off on day one of hospitalization. After 
transfer to the floor the patient only required his home 
midodrine for blood pressure support. He was diuresed with 20 mg 
IV Lasix for 2L O2 requirement ___ fluid overload, and then 
weaned off O2. His blood cultures were negative. His urine 
cultures at ___ were negative. His urine cultures from ___. 
___ were positive for E.Coli, pansensitive. He was initially 
on aztreonam after vanc/cefe from ___ until the 
sensitivities were back and he was transitioned to PO Bactrim to 
complete by ___.  

# Seizures: For AEDs, patient on 50 mg QID lyrica, 200 mg 
Tomprax BID and 100 mg lamtogrine BID. Per wife, patient usually 
seizes when ill and usually seizes in the AM. On morning of day 
one of admission, patient had clinical seizure with jerking 
movements of head and legs, post ictal confusion. Neurology was 
consulted who did not want to change dosages or do an eeg as 
they felt he missed medications and had critical illness. He is 
on an Ativan bridge to home Lamictal/Topomax while he is 
infected. EEG was done which showed no seizures, just non-focal 
encephalopathy. His Ativan bridge was Ativan 0.75 mg Q8H for 48 
hours and taper to Ativan 0.75 mg Q12H for 48 hours then Ativan 
0.75 mg QD for 48 hours

# Hypotension: Likely multi-factoral in the setting of 
infection, potentially liver failure, FTT and concern adrenal 
insufficiency or potentially malignancy vs. autonomic 
dysfunction. History of BPH and back pain. TSH, free T4 and 
cortisol within normal limits. Midorine 5 mg TID was continued. 

# Transaminitis: likely secondary to shock liver in the setting 
of profound hypotension. Could potentially be of viral etiology. 
CT abd/pelvis w/o contrast without acute biliary or liver 
pathology. Serum tox negative for ___ ingestion. 
Hepititis, CMV, EBV serologies were all negative. He was not HBV 
immune,  however, which was a transitional issue. This was felt 
to be secondary to critical illness and slowly improved with 
antibiotics and fluid support. 

TRANSITIONAL ISSUES: 
====================================
CODE STATUS: Full Code
_________________________
FYI: 
- Cannot drive until neurology clears him
- SEIZURE BRIDGE: Ativan 0.75 mg Q8H for 48 hours and taper to 
Ativan 0.75 mg Q12H for 48 hours then Ativan 0.75 mg QD for 48 
hours
- abx end date: ___
_________________________
TO DO: 
[ ] HBV immunization, patient is not immune
[ ] Needs to see neurology before urology. Neurology needs to 
clear the patient prior to having TURP with urology. 
[ ] Please schedule the patient for his TURP procedure as soon 
as possible, as he ended up in the hospital this time with 
urosepsis ___ self-straight catheterization
_________________________
MEDICATIONS: 
- Vancomycin (___) 
- Cefepime x1d (___) 
- Aztreonam 1000 mg iv q12h (___)
- Bactrim DS Q12H (___)
- SEIZURE BRIDGE: Ativan 0.75 mg Q8H for 48 hours and taper to 
Ativan 0.75 mg Q12H for 48 hours then Ativan 0.75 mg QD for 48 
hours

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pregabalin 50 mg PO QID 
2. Multiple Vitamins (multivitamin) 1 tab oral DAILY 
3. LamoTRIgine 100 mg PO BID 
4. Citalopram 40 mg PO DAILY 
5. Topiramate (Topamax) 200 mg PO Q12H 
6. Midodrine 2.5 mg PO TID 
7. Percocet (oxyCODONE-acetaminophen) ___ mg oral Q6H-Q8H 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
Stop taking if having diarrhea 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  LORazepam 0.75 mg PO Q12H Duration: 4 Doses 
RX *lorazepam 0.5 mg 1.5 tablets by mouth every twelve (12) 
hours Disp #*3 Tablet Refills:*0 
3.  LORazepam 0.75 mg PO Q24H Duration: 2 Doses 
RX *lorazepam 0.5 mg 1.5 tablet by mouth every day Disp #*3 
Tablet Refills:*0 
4.  Senna 8.6 mg PO BID 
Stop taking if having diarrhea 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*7 Tablet Refills:*0 
6.  Citalopram 40 mg PO DAILY  
7.  LamoTRIgine 100 mg PO BID  
8.  Midodrine 2.5 mg PO TID  
9.  Multiple Vitamins (multivitamin) 1 tab oral DAILY  
10.  Percocet (oxyCODONE-acetaminophen) ___ mg oral Q6H-Q8H  
11.  Pregabalin 50 mg PO QID  
12.  Topiramate (Topamax) 200 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Complicated cystitis, septic shock, seizures

Secondary Diagnosis: Back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY YOU WERE ADMITTED TO THE HOSPITAL: 
- You had a bladder infection and low blood pressure

WHAT WAS DONE:
- You were given antibiotics
- You were given extra seizure medications because you had a 
seizure. Your seizures then stopped. 

WHAT YOU SHOULD DO NOW: 
- Follow up with your doctor appointments below
- ___ note all new or changed medications, listed below
- Please do not drive until your neurologist tells you that it 
is OK

It was a pleasure taking care of you,

Your ___ Team
 
Followup Instructions:
___